US07091214B2
Methyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide (0.78 g, 1.7 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (0.33 g, 2.0 mmol) were coupled according to the method described in Part J of Example 1. The reaction was heated at reflux for 15 hours, at which time additional pyridine-3-boronic acid 1,3-propanediol cyclic ester, palladium acetate, and triphenylphosphine were added, and the reaction was heated for an additional three hours. The work-up procedure used in Part F of Examples 125–135 was followed. The crude product was purified twice by column chromatography on silica gel (eluting with chloroform:CMA in a gradient from 95:5 to 70:30) and then triturated with methanol, isolated by filtration, and dried for eight hours under high vacuum at 100° C. to provide 0.78 g of methyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide as off-white needles, mp 216–218° C.

reactant | Methyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide | 1.7 mmol, 0.78 g | CC(CCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)S(=O)(=O)N | C18H24BrN5O3S
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 2.0 mmol, 0.33 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide | 0.78 g | CC(CCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)COCC)S(=O)(=O)N | C23H28N6O3S
